US08357693B2
tert-butyl 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate
A mixture of tert-butyl 5-(2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.61 g, 1.06 mmol), 1-bromo-2-chloro ethane (0.475 g, 3.31 mmol) and K2CO3 (0.533 g, 3.86 mmol) in DMF (5 mL) was heated at 85° C. for 2.5 h. the mixture was allowed to cool to RT upon which, it was poured into water. A solid separated out which was collected via filtration and dried under vacuum. The residue was purified via preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the desired compound tert-butyl 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.37 g, 0.578 mmol, 55%). MS 640.3 (M+1 Cl isotope pattern).

reactant | tert-butyl 5-(2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 1.06 mmol, 0.61 g | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)O)OC | C33H28FN5O4
reactant | 1-bromo-2-chloro ethane | 3.31 mmol, 0.475 g | BrCCCl | C2H4BrCl
reactant | K2CO3 | 3.86 mmol, 0.533 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.578 mmol, 0.37 g, 55% | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C35H31ClFN5O4
